US07115611B2
To a dry ice cooled solution of 0.86 ml (12 mmol) DMSO in 10 ml dichloromethane was added 0.68 ml (7.79 mmol) oxalylchloride. After the reaction mixture was stirred for 5 min at −70° C., 1.8 g (5.99 mmol) of [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol, dissolved in 8 ml dichloromethane, was added by dropping within 5 min. The reaction mixture was then stirred for further ten minutes at −70° C. and after 4.17 ml (30 mmol) triethylamine was added, the reaction mixture was allowed to come to RT and it was stirred for 1 h at RT. The mixture was taken up in ether and washed with 1N HCl and water. The ether phase was concentrated under reduced pressure to give 1.75 g of pure 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbaldehyde.

reactant | dry ice | C(=O)=O | CO2
reactant | DMSO | 12 mmol, 0.86 ml | CS(=O)C | C2H6OS
reactant | oxalylchloride | 7.79 mmol, 0.68 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 5.99 mmol, 1.8 g | C1(CC1)C1=NC(=NC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3N2O
reactant | triethylamine | 30 mmol, 4.17 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbaldehyde | 1.75 g | C1(CC1)C1=NC(=NC=C1C=O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2O
